US07183270B2
1-[(1S,2R,4R)-2-benzenesulfonylmethyl-4-(isopropyl-ethyl-amino)cyclohexyl]-4-(3-trifluoromethyl-phenyl)-5,6-dihydro-1H-pyridin-2-one
Following the procedure of Example 104 but substituting acetaldehyde for aqueous formaldehyde, 1-([(1S, 2R, 4R)-2-benzenesulfonylmethyl-4-isopropylamino-cyclohexyl)-4-(3-trifluoromethylphenyl)-5,6-dihydro-1H-pyridin-2-one (43 mg, 0.08 mmol) was converted to the title product (45 mg) as a white glassy solid. MS found: (M+H)+=563.29.

reactant | acetaldehyde | C(C)=O | C2H4O
reactant | formaldehyde | C=O | CH2O
reactant | [(1S, 2R, 4R)-2-benzenesulfonylmethyl-4-isopropylamino-cyclohexyl)-4-(3-trifluoromethylphenyl)-5,6-dihydro-1H-pyridin-2-one | 0.08 mmol, 43 mg | C1(=CC=CC=C1)S(=O)(=O)C[C@H]1[C@H](CC[C@H](C1)NC(C)C)N1C(C=C(CC1)C1=CC(=CC=C1)C(F)(F)F)=O | C28H33F3N2O3S
product | 1-[(1S,2R,4R)-2-benzenesulfonylmethyl-4-(isopropyl-ethyl-amino)cyclohexyl]-4-(3-trifluoromethyl-phenyl)-5,6-dihydro-1H-pyridin-2-one | 45 mg | C1(=CC=CC=C1)S(=O)(=O)C[C@H]1[C@H](CC[C@H](C1)N(CC)C(C)C)N1C(C=C(CC1)C1=CC(=CC=C1)C(F)(F)F)=O | C30H37F3N2O3S
